US06008229
To a solution of 2,6-dimethylbenzoic acid (20 g) in conc. sulfuric acid (100 ml) was dropwise added under ice-cooling a mixture of 70% nitric acid and conc. sulfuric acid (21.6 ml), which was prepared by dropwise adding conc. sulfuric acid (10.8 ml) to 70% nitric acid (15.1 ml) under ice-cooling, and the mixture was stirred for 1 hour at the same temperature. Ice-water was added to the reaction mixture, and the resulting precipitates were filtered off. The filtrate was concentrated, and the residue was purified by flash chromatography (dichloromethane:methanol=20:1 including 1% acetic acid) to give 2,6-dimethyl-3-nitrobenzoic acid (7.0 g) as a colorless crystal.

reactant | 2,6-dimethylbenzoic acid | 20 g | CC1=C(C(=O)O)C(=CC=C1)C | C9H10O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 15.1 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 10.8 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 21.6 ml | S(O)(O)(=O)=O | H2O4S
product | 2,6-dimethyl-3-nitrobenzoic acid | 7.0 g | CC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])C | C9H9NO4
